US08349824B2
A white suspension of 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid (90 mg, 248 mol.) and 2-propanol (23 l, 298 mol) in N,N-dimethylformamide (2 ml) is cooled to 0° C. A solution of 4-dimethylaminopyridine (15.2 mg, 124 mol, 0.5 eq.) and PYBROP (127 mg, 273 mol, 1.1 eq.) in N,N-dimethylformamide (2 ml) is dropwise added at 0° C. followed after 5 min by triethylamine (105 l, 745 mol). The white suspension is allowed to warm to room temperature giving a colorless clear solution and stirred for 4.5 days. The colorless solution is poured on water, neutralized to pH 7-8 with aqueous 1N hydrochloric acid and extracted with dichloromethane (3×70 ml). The combined aqueous layer is washed with water (3×50 ml), dried with magnesium sulfate and the solvent is removed in vacuo. Purification of the residue (77 mg) by chromatography on a 10 g silica cartridge (eluent heptane/ethyl acetate 30-60% 25′) affords isopropyl 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylate (10 mg, 9.96%) as a white solid. MS: m/z=405.3 (M+H+).

reactant | 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | 248 mol, 90 mg | CN1N=CC(=C1C(NC1=CC=2N(C=C1)N=C(N2)C2=CC=CC=C2)=O)C(=O)O | C18H14N6O3
reactant | 2-propanol | 298 mol, 23 l | CC(C)O | C3H8O
reactant | PYBROP | 273 mol, 127 mg, 1.1 eq. | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 745 mol, 105 l | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 124 mol, 15.2 mg, 0.5 eq. | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | isopropyl 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylate | 10 mg, 9.96% | CN1N=CC(=C1C(NC1=CC=2N(C=C1)N=C(N2)C2=CC=CC=C2)=O)C(=O)OC(C)C | C21H20N6O3
